US05416231
A tetrahydrofuran solution (15 ml) of propargyl alcohol tetrahydropyranyl ether (1.44 g, 10.3 mmol) was cooled to -78° C., and butyllithium (factor=1.5, 6.9 ml, 10.3 mmol) was added thereto. Fifteen minutes later, the temperature was raised to 0° C. Hexamethylphosphoric triamide (3.76 ml, 21 mmol) was added thereto, and the mixture was stirred for 15 minutes. A tetrahydrofuran solution of 2-(2-bromoethyl)cyclopropylmethyl t-butyldimethyl silyl ether (2.73 g, 10.3 mmol) was added thereto, and the mixture was stirred at room temperature for 2 hours. A saturated ammonium chloride solution was added thereto, and the product was extracted with ethyl ether. The crude product was purified by silica gel column chromatography to obtain 2-(5-tetrahydropyranyloxy-3-pentynyl)cyclopropylmethyl t-butyldimethylsilyl ether (3 g).

reactant | propargyl alcohol tetrahydropyranyl ether | 10.3 mmol, 1.44 g | O1C(CCCC1)OCC#C | C8H12O2
reactant | butyllithium | 10.3 mmol, 6.9 ml | C(CCC)[Li]
reactant | Hexamethylphosphoric triamide | 21 mmol, 3.76 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
reactant | 2-(2-bromoethyl)cyclopropylmethyl t-butyldimethyl silyl ether | 10.3 mmol, 2.73 g | C(C)(C)(C)[Si](C)(C)OCC1C(C1)CCBr | C12H25BrOSi
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 2-(5-tetrahydropyranyloxy-3-pentynyl)cyclopropylmethyl t-butyldimethylsilyl ether | 3 g | [Si](C)(C)(C(C)(C)C)OCC1C(C1)CCC#CCOC1OCCCC1 | C20H36O3Si
